US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-2-thiophenecarboxamide
A suspension of 2-thiophenecarboxamide, 2,2-dichloropropionaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as described in Example 53A to provide the desired product.

reactant | 2-thiophenecarboxamide | S1C(=CC=C1)C(=O)N | C5H5NOS
reactant | 2,2-dichloropropionaldehyde | ClC(C=O)(C)Cl | C3H4Cl2O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-2-thiophenecarboxamide | N1(N=NC2=C1C=CC=C2)C(C(C)(Cl)Cl)NC(=O)C=2SC=CC2 | C14H12Cl2N4OS
